US08877794B2
N-{2-[3-(3-Benzyl-azetidin-3-yl)-phenoxy]-ethyl}-C-cyclopropyl-methane sulfonamide
To 3-benzyl-3-[3-(2-cyclopropylmethanesulfonylamino-ethoxy)-phenyl]-azetidine-1-carboxylic acid ethyl ester (50 mg, 0.11 mmol) was added 4 ml 2N NaOH/EtOH. The mixture was heated for 1 hour in a microwave. After cooling to room temperature 50% brine was added and the mixture extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium bicarbonate, filtered and the solvent evaporated. The residue was purified on 4 g SiO2 using 10% methanol in dichloromethane affording the desired product as a clear oil. m=15.5 mg

reactant | 3-benzyl-3-[3-(2-cyclopropylmethanesulfonylamino-ethoxy)-phenyl]-azetidine-1-carboxylic acid ethyl ester | 0.11 mmol, 50 mg | C(C)OC(=O)N1CC(C1)(C1=CC(=CC=C1)OCCNS(=O)(=O)CC1CC1)CC1=CC=CC=C1 | C25H32N2O5S
reactant | NaOH EtOH | 2N, 4 ml | [OH-].[Na+].CCO
solvent | brine | [Cl-].[Na+].O
product | N-{2-[3-(3-Benzyl-azetidin-3-yl)-phenoxy]-ethyl}-C-cyclopropyl-methane sulfonamide | C(C1=CC=CC=C1)C1(CNC1)C=1C=C(OCCNS(=O)(=O)CC2CC2)C=CC1 | C22H28N2O3S
